US04423070
A solution of bromine (4.2 g.) in chloroform (20 ml.) was added dropwise to a cooled stirred solution of 3'-valeryloxymethyl-4'-valeryloxyacetophenone (8.5 g.) in chloroform (100 ml.). During the addition, the temperature was maintained at 0°-5° C. by the addition of small pieces of solid carbon dioxide. The solution was then washed with 10% w/v sodium carbonate solution (3×100 ml.) water (2×100 ml.) and saturated brine (100 ml.). The organic phase was dried (MgSO4), filtered, and evaporated yielding 3'-valeryloxymethyl-4'-valeryloxy-2-bromoacetophenone (6 g., 57%), which was judged to be sufficiently pure by IR and TLC [SiO2 : 50 v/v EtOAc/petrol (60°-80°)] for use without further purification or characterisation.

reactant | bromine | 4.2 g | BrBr | Br2
reactant | 3'-valeryloxymethyl-4'-valeryloxyacetophenone | 8.5 g | C(CCCC)(=O)OCC=1C=C(C=CC1OC(CCCC)=O)C(C)=O | C19H26O5
reactant | carbon dioxide | C(=O)=O | CO2
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 3'-valeryloxymethyl-4'-valeryloxy-2-bromoacetophenone | 6 g, 57% | C(CCCC)(=O)OCC=1C=C(C=CC1OC(CCCC)=O)C(CBr)=O | C19H25BrO5
